US07504410B2
[3-(2-thiazolylamino)propyl]-carbamic acid 1,1-dimethylethyl ester
To a solution of (3-bromopropyl)-carbamic acid 1,1-dimethylethyl ester (1.2 g, 5.0 mmol) and 2-aminothiazole (1.0 g, 10 mmol, 2 equiv.) in DMF 20 (mL) was added Cs2CO3 (2.5 g, 7.7 mmol, 1.5 equiv.). The resulting mixture was heated at 85° C. under N2 overnight. The reaction mixture was diluted with ethyl acetate (200 mL), washed with water (3×200 mL), and brine (200 mL). The organic phase was dried over Na2SO4, then concentrated in vacuo to afford an oil. The crude product was purified by chromatography (SiO2) using hexane/ethyl acetate to afford the title compound as a light yellow solid (300 mg).

reactant | (3-bromopropyl)-carbamic acid 1,1-dimethylethyl ester | 5.0 mmol, 1.2 g | CC(C)(C)OC(NCCCBr)=O | C8H16BrNO2
reactant | 2-aminothiazole | 10 mmol, 1.0 g, 2 equiv. | NC=1SC=CN1 | C3H4N2S
reactant | Cs2CO3 | 7.7 mmol, 2.5 g, 1.5 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | [3-(2-thiazolylamino)propyl]-carbamic acid 1,1-dimethylethyl ester | 300 mg | CC(C)(C)OC(NCCCNC=1SC=CN1)=O | C11H19N3O2S
